US08193228B2
Lithium hexamethyldisilazide (1 M in tetrahydrofuran) (92 mL, 0.09 mmol) was added to a −78° C. solution of 4-(2,2-dimethylbutyl)-2-{[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (35 mg, 0.08 mmol) in tetrahydrofuran (2 mL). After stirring at −78° C. for 10 min, a solution of N-fluorobenzenesulfonimide (36 mg, 0.11 mmol) in tetrahydrofuran (1 mL) was added. The reaction was allowed to warm to ambient temperature, quenched with water and extracted with methylene chloride and ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo. Chromatography over silica eluting with 0-50% ethyl acetate/hexane afforded 4-(2,2-dimethylpropyl)-2-{fluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide.

reactant | Lithium hexamethyldisilazide | 0.09 mmol, 1 M, 92 mL | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
reactant | 4-(2,2-dimethylbutyl)-2-{[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 0.08 mmol, 35 mg | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)C1=NC=C(C=C1)F)=O)(CC)C | C24H29FN4O3S
reactant | N-fluorobenzenesulfonimide | 0.11 mmol, 36 mg | C1=CC=C(C=C1)S(=O)(=O)N(F)S(=O)(=O)C2=CC=CC=C2 | C12H10FNO4S2
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | 4-(2,2-dimethylpropyl)-2-{fluoro[4-(5-fluoropyridin-2-yl)phenyl]acetyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(C(C1=CC=C(C=C1)C1=NC=C(C=C1)F)F)=O)(C)C | C23H26F2N4O3S
